US06177419B1
39) Preparation of 6,6′-Bis(2-hydroxy-3-fluorophenyl)-2,2′-bipyridine
6,6′-Bis(2-hydroxy-3-fluorophenyl)-2,2′-bipyridine was prepared by reaction of 3-fluoro-2-hydroxyphenylboronic acid (600 mg, 3.84 mmol) with 6,6-dibromo-2,2′-bipyridyl (520 mg, 1.64 mmol), sodium carbonate (2N solution, 4 ml) and tetrakis(triphenylphosphine) palladium (40 mg) in ethylene glycol dimethyl ether (16 ml) at reflux under nitrogen for 7 hours. The solid was filtered from the cooled reaction and washed with ethylene glycol dimethyl ether and water to give the desired product as a beige solid (240 mg, 39%); δH [2H6]-DMSO 8.49,(2H, d), 8.30,(4H, m), 8.00,(2H, d), 7.37,(2H, t), 6.99,(2H, dd).

reactant | 3-fluoro-2-hydroxyphenylboronic acid | 3.84 mmol, 600 mg | FC=1C(=C(C=CC1)B(O)O)O | C6H6BFO3
reactant | 6,6-dibromo-2,2′-bipyridyl | 1.64 mmol, 520 mg | BrC1(C=CC=C(N1)C1=NC=CC=C1)Br | C10H8Br2N2
reactant | sodium carbonate | 2N, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 16 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 40 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6,6′-Bis(2-hydroxy-3-fluorophenyl)-2,2′-bipyridine | 240 mg, 39% | OC1=C(C=CC=C1F)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)F)O | C22H14F2N2O2
